US06979741B2
A mixture of the 4-(piperidine-3-sulfonyl)-morpholine (710 mg, 3.03 mmol), tert-butyl 4-oxo-1-piperidinecarboxylate (1 eq, 605 mg) and Ti(OiPr)4 (1.25 eq, 1.12 mL) was stirred under nitrogen at ambient temperature for 1 hr. A solution of sodium cyanoborohydride (0.7 eq, 133 mg) in anhydrous ethanol (3 mL) was added and the clear solution was stirred overnight. Water (0.6 mL) was added followed by sufficient ethanol to permit stirring. The thick suspension was filtered through Celite® rising through with ethanol and the filtrate was evaporated to a cloudy oil which was redissolved in dichloromethane/ethanol, a few drops of water added and the mixture was filtered through Celite®. The filtrate was diluted with toluene, evaporated under vacuum and the residue purified by chromatography on silica gel eluting with 2.5% methanol-dichloromethane. The desired fractions were combined, evaporated under vacuum and the residue chromatographed on silica gel eluting with 2.5% methanol-dichloromethane to give 3-(morpholine-4-sulfonyl)-[1,4′]bipiperidinyl-1′-carboxylic acid tert-butyl ester (520 mg, 41%).

reactant | 4-(piperidine-3-sulfonyl)-morpholine | 3.03 mmol, 710 mg | N1CC(CCC1)S(=O)(=O)N1CCOCC1 | C9H18N2O3S
reactant | tert-butyl 4-oxo-1-piperidinecarboxylate | 605 mg, 1 eq | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | sodium cyanoborohydride | 133 mg, 0.7 eq | C(#N)[BH3-].[Na+]
reactant | Water | 0.6 mL | O | H2O
solvent | ethanol | 3 mL | C(C)O | C2H6O
catalyst | Ti(OiPr)4 | 1.12 mL, 1.25 eq | CC(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 3-(morpholine-4-sulfonyl)-[1,4′]bipiperidinyl-1′-carboxylic acid tert-butyl ester | 520 mg, 41% | C(C)(C)(C)OC(=O)N1CCC(CC1)N1CC(CCC1)S(=O)(=O)N1CCOCC1 | C19H35N3O5S
